US08067447B2
Methyl 4-(3-(1,3,4-thiadiazol-2-ylamino)-1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-oxopropyl)benzoate
Example 153 was prepared from 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-(4-(methoxycarbonyl)phenyl)-2-methylpropanoic acid and 1,3,4-thiadiazol-2-amine using General Coupling Method A to give 35 mg (25% yield, 3 steps). MS found: (M+H)+=516.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-(4-(methoxycarbonyl)phenyl)-2-methylpropanoic acid | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)C)C1=CC=C(C=C1)C(=O)OC | C25H21FN2O4
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | Methyl 4-(3-(1,3,4-thiadiazol-2-ylamino)-1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-oxopropyl)benzoate | 25% yield | S1C(=NN=C1)NC(C(C(C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C1=CC=C(C(=O)OC)C=C1)C)=O | C27H22FN5O3S
